US07420001B2
To 70 mg of (S)-2-{4′-[(5-cyano-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester was added 1.5 mL of THF and 2 mL of LiOH solution (3.6 g LiOH/50 mL MeOH/50 mL H2O). The mixture was stirred at room temperature for 3 days. The solvents were removed under vacuum and the residue was dissolved in 5 mL of water. The solution was acidified and the resulting suspension was filtered. The solid product was dried under vacuum to give 42 mg (61% yield) of (S)-2-{4′-[(5-cyano-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.8 (dd, J=12.6, 6.8 Hz, 6 H) 2.0 (m, 1 H) 2.7 (s, 3 H) 3.6 (dd, J=9.5, 5.9 Hz, 1 H) 4.2 (s, 3 H) 7.6 (d, J=8.6 Hz, 1 H) 7.8 (m, 7 H) 8.0 (d, J=8.8 Hz, 2 H) 8.1 (d, J=9.1 Hz, 1 H) 10.7 (s, 1 H).

reactant | (S)-2-{4′-[(5-cyano-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester | 70 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2)C#N)OC)=O | C30H29N3O7S
reactant | LiOH | 2 mL, 3.6 g | [Li+].[OH-]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | (S)-2-{4′-[(5-cyano-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid | 42 mg, 61% yield | C(#N)C=1C=CC2=C(C(=C(O2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@H](C(=O)O)C(C)C)C)C1OC | C29H27N3O7S
